US06441097B1
Didodecyl Naphthalene Sulfonic Acid
A mixture that is approximately 80% didodecylated naphthalene sulfonic acid and 20% tridodecylnaphthalene sulfonic acid is prepared by the alkylation of naphthalene with dodecene followed by sulfonation of the resulting alkylate with oleum.

reactant | tridodecylnaphthalene sulfonic acid | C(CCCCCCCCCCC)C1=C(C(=C(C2=CC=CC=C12)S(=O)(=O)O)CCCCCCCCCCCC)CCCCCCCCCCCC | C46H80O3S
reactant | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
reactant | dodecene | C=CCCCCCCCCCC | C12H24
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
product | Didodecyl Naphthalene Sulfonic Acid | C(CCCCCCCCCCC)C=1C(=C(C2=CC=CC=C2C1)S(=O)(=O)O)CCCCCCCCCCCC | C34H56O3S
